US04882340
2-Phenylbenzofuran-7-carboxylic acid (40 g) is dissolved in tetrahydrofuran (300 ml) and the solution is added dropwise to a suspension of lithium aluminum hydride (19.12 g) in tetrahydrofuran (130 ml) under ice-cooling. After the mixture is stirred at 70° C. for 2 hours, water is added to the mixture to decompose excess lithium aluminum hydride and its complex. Insoluble materials are filtered off, and the filtrate is concentrated under reduced pressure to remove solvent. The residue is dissolved in ethyl acetate, and the solution is washed with water, dried and concentrated under reduced pressure to remove solvent. The residue is recrystallized from a mixture of ethyl acetate and n-hexane, whereby 7-hydroxymethyl-2-phenylbenzofuran (34.4 g) is obtained. Yield: 91%.

reactant | 2-Phenylbenzofuran-7-carboxylic acid | 40 g | C1(=CC=CC=C1)C=1OC2=C(C1)C=CC=C2C(=O)O | C15H10O3
reactant | lithium aluminum hydride | 19.12 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
product | 7-hydroxymethyl-2-phenylbenzofuran | 34.4 g, Yield: 91% | OCC1=CC=CC=2C=C(OC21)C2=CC=CC=C2 | C15H12O2
